US09193720B2
The diacetoxypalladium (6.11 mg, 0.027 mmol) was added to a nitrogen purged and degassed solution of (S)-isopropyl 2-(5-bromo-4-(4-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (150 mg, 0.272 mmol), 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione (111 mg, 0.299 mmol), and 2-dicyclohexylphosphino-2′,6′-dimethoxy-biphenyl (22.30 mg, 0.054 mmol), and potassium phosphate tribasic (432 mg, 2.040 mmol) in dioxane (4.5 mL) and water (0.9 mL) and stirred in a screw-capped pressure vessel for 4 h at 80° C. The reaction was allowed to cool, diluted with EtOAc, and the organic layer was washed with brine and dried (Na2SO4). The crude product was charged (DCM) to a 24 g ISCO silica gel cartridge and gradient elution (5-85% EtOAc/hexanes) using an Isolera chromatography station gave (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(4-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate 34.3 mg (18.4%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.41-7.39 (m, 2H), 7.24-7.22 (m, 1H), 7.17-7.13 (m, 2H), 7.03 (br. s, 2H), 6.96-6.94/6.87-6.86/6.80-6.78 (series m, 1H), 5.98 (br. s, 1H), 4.95 (br. s, 1H), 4.24 (t, J=6.2 Hz, 2H), 3.99-3.96 (m, 1H), 3.08 (t, J=6.2 Hz, 2H), 3.02-2.98 (m, 1H), 2.77-2.70 (m, 1H), 2.64-2.58 (m, 1H), 2.46 (s, 3H), 2.31-2.28 (m, 1H), 2.05 (s, 3H), 2.01-1.99 (m, 1H), 1.92-1.88 (m, 1H), 1.80 (br. s, 1H), 1.62-1.47 (m, 2H), 1.23-1.17 (m, 12H), 1.14 (s, 9H). UPLC (M+H)=687.5.

reactant | (S)-isopropyl 2-(5-bromo-4-(4-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.272 mmol, 150 mg | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C)N1CCC(CC1)C1=NC(=NO1)C(C)C | C26H39BrN4O4
reactant | 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione | 0.299 mmol, 111 mg | FC1=CC=C(CCOC2=CC=C(C=C2)B2OC(CN(CC(O2)=O)C)=O)C=C1 | C19H19BFNO5
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxy-biphenyl | 0.054 mmol, 22.30 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate tribasic | 2.040 mmol, 432 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.9 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | diacetoxypalladium | 0.027 mmol, 6.11 mg | C(C)(=O)O[Pd]OC(C)=O
product | (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(4-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate | 34.3 mg, 18.4% | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CCC(CC1)C1=NC(=NO1)C(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C40H51FN4O5
